US08440652B2
General method C was applied to (S)-3-methyl-8-(4,4,5,5-tetra methyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one (303 mg, 0.7 mmol) and 4-(6-amino-5-bromopyridin-3-yl)-N-cyclopropylbenzenesulfonamide to give (S)-4-(6-amino-5-(3-methyl-5-oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl)pyridin-3-yl)-N-cyclopropylbenzenesulfonamide as a yellow solid (180 mg, 33% yield) after purification by reverse phase preparatory HPLC. MS (EI) m/z=464.6 [M+1]+.

reactant | (S)-3-methyl-8-(4,4,5,5-tetra methyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one | 0.7 mmol, 303 mg | C[C@@H]1NC(C2=C(NC1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C16H23BN2O3
reactant | 4-(6-amino-5-bromopyridin-3-yl)-N-cyclopropylbenzenesulfonamide | NC1=C(C=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1)Br | C14H14BrN3O2S
product | (S)-4-(6-amino-5-(3-methyl-5-oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-8-yl)pyridin-3-yl)-N-cyclopropylbenzenesulfonamide | 180 mg, 33% yield | NC1=C(C=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1)C=1C=CC2=C(NC[C@@H](NC2=O)C)C1 | C24H25N5O3S
